US04255436
2-oxo-4,5-dimethyl-5-ethyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4,5-dimethyl-5-ethyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 115°-117° C. The 2-oxo-4,5-dimethyl-5-ethyl-3-thiazoline-oxime starting material melts at 143.5°-144.5° C.

reactant | 2-oxo-4,5-dimethyl-5-ethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(CC)C | C7H12N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4,5-dimethyl-5-ethyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C)(CC)C | C9H15N3O2S
